US06313295B1
Preparation of 3-[3-(6-Methoxy-m-tolyl)-1,2-benzisothiazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of ethyl 3-[(ethoxycarbonyl)amino]-4,4,4-trifluorocrotonate, (Z)-(2.04 g, 8 mmol), 5-amino-3-(6-methoxy-m-tolyl)-1,2-benzisothiazole (2.59 g, 9.6 mmol) and 1,8-diazabicyclo[5,4,0]undec-7-ene (DBU, 1.46 g, 9.6 mmol) in xylene (15 mL) is heated at 110° C. for 6 hours, cooled, and quenched with ethyl acetate and water. The resultant mixture is extracted with ethyl acetate. The organic extracts are combined, washed with aqueous 2 N hydrochloric acid, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to obtain a foam. Flash chromatography of the foam using silica gel and a 3:7 ethyl acetate/hexanes solution gives the title product as a solid (2.5 g, 72% yield) which is identified by 1H and 19F NMR spectral analyses.

reactant | ethyl 3-[(ethoxycarbonyl)amino]-4,4,4-trifluorocrotonate | C(C)OC(=O)N\C(=C/C(=O)OCC)\C(F)(F)F | C9H12F3NO4
reactant | 5-amino-3-(6-methoxy-m-tolyl)-1,2-benzisothiazole | 9.6 mmol, 2.59 g | NC=1C=CC2=C(C(=NS2)C=2C=C(C(=CC2)OC)C)C1 | C15H14N2OS
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 9.6 mmol, 1.46 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | xylene | 15 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[3-(6-Methoxy-m-tolyl)-1,2-benzisothiazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 2.5 g, 72% yield | COC1=CC=C(C=C1C)C1=NSC2=C1C=C(C=C2)N2C(NC(=CC2=O)C(F)(F)F)=O | C20H14F3N3O3S
